US04624980
Preparation of N-t-octyl-N-2-hydroxycyclohexylamine
In a 1000 cc three neck flask was charged 86.6 gms (0.88 moles) of cyclohexene oxide, 114.0 gms (0.88 moles) of t-octyl amine, 5 grams of zinc chloride, and 2.2 gms of polycat-8 (Abbot Laboratories). The mixture was then heated at 95°-100° C. for about 10 hours. The crude mixture was stripped of low boilers and then was dissolved in methylene chloride and washed with ammonium hydroxide solution. The methylene chloride solution was dried over magnesium sulfate, filtered and stripped to give a liquid. The product was distilled at 121° C. (0.3 mmHg) to give a colorless liquid. A GLC analysis of the distilled product showed it to be 98.6% purity.

reactant | cyclohexene oxide | 0.88 moles, 86.6 gms | C12C(CCCC1)O2 | C6H10O
reactant | t-octyl amine | 0.88 moles, 114.0 gms | C(C)(C)(CC(C)(C)C)N | C8H19N
reactant | polycat-8 | 2.2 gms | CN(C)C1CCCCC1 | C8H17N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 5 grams | [Cl-].[Zn+2].[Cl-]
product | N-t-octyl-N-2-hydroxycyclohexylamine | C(C)(C)(CC(C)(C)C)NC1C(CCCC1)O | C14H29NO
